US05272163
N-[4-(4-Pyridylsulfonyl)phenyl]-3,3,3-trifluoro-2-hydroxy-2-trifluoromethyl-propanamide
Tetrahydrofuran (5ml,dry) was added to a mixture of 2,2-bis-trifluoromethyl-2-hydroxyacetic acid (1.29 g, 6.1 mmol) and 1,1'-carbonyldiimidazole (0.99 g, 6.1 mmol), while under a nitrogen atmosphere. There was an immediate evolution of carbon dioxide. The reaction was heated at 35° C. for 15 min. The reaction was treated with a solution of 4-(4-pyridylsulfonyl)benzeneamine (1.43 g, 6.1 mmol) in dimethylformamide (15 ml, dry), and heated to 69° C. in an ultrasonic bath for 19.5 hrs. The reaction was poured into water (300 ml), and extracted with ethyl ether (3×300 ml). The combined organic portions were evaporated and preabsorbed onto silica gel (10 gm). Chromatography of this material on silica gel, eluting with methylene chloride/ethyl acetate (first 100:0 and then 70:30) provided a white solid. Recrystallization from acetone gave starting 4-(4-pyridylsulfonyl)benzeneamine. The filtrate was evaporated and chromatographed on silca gel eluting with chloroform/methanol (first 100:0 and then 98:2) provided the title compound (0.115 g, 6%) as a white solid; mp 235°-237° C. 1H--NMR (250 MHz, d6 --DMSO): 7.90 (d, J=4.6, 2H, ArH), 8.04 (d, 4H, ArH), 8.89 (d, J=4.68Hz, 2H, ArH), 9.90 (s, 1H, OH), 10.97 (s, 1H, NH). MS(CI,CH4): 429 (M+1).

reactant | 2,2-bis-trifluoromethyl-2-hydroxyacetic acid | 6.1 mmol, 1.29 g | FC(C(C(=O)O)(O)C(F)(F)F)(F)F | C4H2F6O3
reactant | 1,1'-carbonyldiimidazole | 6.1 mmol, 0.99 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | carbon dioxide | C(=O)=O | CO2
reactant | 4-(4-pyridylsulfonyl)benzeneamine | 6.1 mmol, 1.43 g | N1=CC=C(C=C1)S(=O)(=O)C1=CC=C(C=C1)N | C11H10N2O2S
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | water | 300 ml | O | H2O
solvent | Tetrahydrofuran | 5ml | O1CCCC1 | C4H8O
product | N-[4-(4-Pyridylsulfonyl)phenyl]-3,3,3-trifluoro-2-hydroxy-2-trifluoromethyl-propanamide | 0.115 g, 6% | N1=CC=C(C=C1)S(=O)(=O)C1=CC=C(C=C1)NC(C(C(F)(F)F)(C(F)(F)F)O)=O | C15H10F6N2O4S
